Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
slurred speech
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old right-handed woman with hx of Atrial fibrillation on 
Eliquis (only once daily), hypertension, hyperlipidemia, CHF
presents as transfer from OSH after she had acute onset 
dysarthria and CTA showed possible partial thrombus or stenosis 
in superior division of L MCA. Transferred here for closer 
monitoring and possible thrombectomy if her exam acutely 
worsens.

History obtained from patient and daughter at bedside. Patient 
is an excellent historian. 

On ___, she had dinner with friends and then returned to her 
apartment and was fooling around on her computer. Last known 
well
was around 8:00 ___. Then, she had an odd sensation and started 
throwing her arms around. She went to living room to sit down 
and
tried to read but could not see the words very clearly. Then, 
two family members were knocking at the door and she had a tough 
time
standing up to open door. She was able to eventually stand up 
with great difficulty and walked with her walker. She usually 
walks with a walker because of knee replacement. Finally, got up 
out of chair with walker and walked to the door to unlock. She 
noticed problems talking to family members. She had difficulty 
forming words and pronouncing words. Denies word finding 
difficulty. She could tell it was slurred like a person who had 
too much to drink. EMTs asked if she was intoxicated but she was 
not. She was very aware of her dysarthria and told her daughters 
that she thinks she's having a stroke. Then, she said she had 
trouble sitting down but has no idea why she thought that. When 
she was standing, she was able to walk with walker but she felt 
unsteady and almost fell. No visual changes. No numbness or 
tingling. Denies focal weakness; she just had trouble standing 
up. She was able to unlock her door without issue but she felt 
shaky. 

She was brought by EMS to ___ where NIHSS was 1 for 
slurred speech. There, she felt the same but her symptoms 
started to improve when she started to be transferred. 
Paramedics said her speech was improving rapidly en route.  

Last month, started needing naps. Her hearing is poor at 
baseline and she normally uses hearing aids. 

For the past ___ months, she has had ___ nocturia nightly. No 
dysuria. 

She has noticed more frequent headaches lately in the past ___ 
months. Last headache was yesterday. She takes tramadol and 
acetaminophen up to a couple times a night. She reports 
headaches at night which wake her up. She denies that the 
headache is
positional; it is the same sitting up or lying down. She has had 
some gradual weight loss over the past ~12 months; ___ year ago 
she was almost 140 lbs, and now she is ___ lbs. Her appetite is 
still good and she enjoys eating but she is less hungry that she 
used to be.  

Daughter says that she has had marked decline in memory in past 
___ weeks. Over past few years, she has been forgetting plans, 
times for pickpup, and dinner plans, which has become normal. 
Over the past ___ weeks, family has noticed dramatic worsening. 
She doesn't remember which grandkids were coming to visit when 
she bought the plane tickets herself.

She endorses 2 pillow orthopnea. 
 
Past Medical History:
Divertoculosis
Atrial fibrillation on Eliquis
CHF
Hypercholesterolemia
Hypertension
 
Social History:
___
Family History:
Father - severe alcoholic, schizophrenia
Mother - CHF
Brother - stroke, carotid stenosis
 
Physical Exam:
ADMISSION EXAM:
Vitals: T:97.9   HR: 79   BP: 164/121   RR: 19   SaO2: 94% on RA

General: Awake, cooperative elderly woman, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: ecchymoses in L shin, more extensive on R shin. 
 
Neurologic:
-Mental Status: Alert, oriented ___.
Able to relate history without difficulty. Attentive, able to
name ___ backward without difficulty. Language is fluent with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Able to name both high and low frequency
objects.  Able to read without difficulty. No dysarthria. Able 
to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch and pinprick.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger snapping b/l. Did not bring her
hearing aids. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature
throughout. Decreased vibratory sense in b/l feet up to ankles.
Joint position sense intact in b/l great toes. No extinction to
DSS. Romberg absent.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2+    2      2      2+    0
R   2+    2      2      2+    0 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor.  No dysmetria on FNF
bilaterally. HKS with L heel without dysmetria. Unable to bend R
knee due to knee surgery. 

-Gait: unable to assess as patient needs a walker at baseline

DISCHARGE EXAM:
24 HR Data (last updated ___ @ 419)
Temp: 97.4 (Tm 98.6), BP: 146/76 (116-155/65-94), HR: 53 
(53-86),
RR: 17 (___), O2 sat: 96% (92-97), O2 delivery: Ra

General: Awake, cooperative elderly woman, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: NR, RR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: ecchymoses in L shin, more extensive on R shin. 
 
Neurologic:
-Mental Status: Alert, oriented to person and situation. Able to
relate history without difficulty. Attentive to examiner.
Language is fluent with intact comprehension. Normal prosody.
There were no paraphasic errors. No dysarthria. Able to follow
both midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5    5    5    5    5    5   5    *    *   5    5    
*Knee cannot bend after prior surgery

-Sensory: No deficits to light touch throughout.

-Coordination: No intention tremor.  No dysmetria on FNF
bilaterally. 

-Gait: needs a walker at baseline
 
Pertinent Results:
___ 01:50AM BLOOD WBC-7.2 RBC-4.75 Hgb-14.6 Hct-45.5* 
MCV-96 MCH-30.7 MCHC-32.1 RDW-13.2 RDWSD-46.5* Plt ___
___ 01:50AM BLOOD Neuts-53.1 ___ Monos-8.2 Eos-1.5 
Baso-0.3 Im ___ AbsNeut-3.81 AbsLymp-2.63 AbsMono-0.59 
AbsEos-0.11 AbsBaso-0.02
___ 01:50AM BLOOD ___ PTT-29.7 ___
___ 01:50AM BLOOD Glucose-97 UreaN-18 Creat-0.7 Na-139 
K-4.3 Cl-102 HCO3-26 AnGap-11
___ 07:35AM BLOOD CK-MB-4 cTropnT-<0.01
___ 07:35AM BLOOD Calcium-9.3 Phos-3.6 Mg-1.8 Cholest-207*
___ 07:35AM BLOOD Triglyc-62 HDL-69 CHOL/HD-3.0 LDLcalc-126
___ 10:57AM BLOOD %HbA1c-5.5 eAG-111
___ 05:22AM BLOOD VitB12-249
___ 05:22AM BLOOD TSH-5.8*
___ 05:22AM BLOOD Trep Ab-NEG
___ 03:12AM URINE Color-Straw Appear-Clear Sp ___
___ 03:12AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG

___ OSH CTA head/neck ___ opinion (___)
IMPRESSION: 
1.  Segmental left vertebral artery occlusion of indeterminate 
chronicity.  No evidence of ischemia.
2.  Somewhat small caliber attenuated left M2 inferior branch, 
without evidence of focal occlusion.
3.  No acute intracranial abnormality on noncontrast CT head.

___ MRI head w/o contrast
IMPRESSION:
1. No acute intracranial abnormality.  Specifically, no large 
territory infarction or hemorrhage.
2. Scattered foci of T2/high-signal intensity in the subcortical 
and periventricular white matter are nonspecific and may reflect 
changes due to chronic small vessel disease.

___ TTE
IMPRESSION: No structural source of thromboembolism identified 
(underlying rhythm predisposes to thrombus formation). Preserved 
left ventricular systolic function in the setting of 
beat-to-beat variability due to arrhythmia. Mild to moderate 
mitral and tricuspid regurgitation. Normal pulmonary pressure. 
Very small pericardial effusion
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with AFib on Eliquis, CHF, 
HLD, HTN who presented w/ sudden onset dysarthria, abnormal arm 
movements, and poor balance (walker at baseline). NIHSS 1 for 
slurred speech at OSH. There, a CTA head and neck was completed, 
and there was concern for left M2 branch attenuation concerning 
for stenosis or occlusion, and she was subsequently transferred 
for consideration of thrombectomy but NIHSS 0 on arrival so she 
was not deemed a candidate. She was admitted to the Neurology 
stroke service for further evaluation of possible TIA vs stroke. 
No further symptoms noted during admission. MRI head w/o 
contrast were without evidence of stroke. Reports recent 
echocardiogram per outpatient PCP/cardiologist, reported as no 
acute findings and so this was not repeated. She mentioned 
concern about worsening memory, but able to perform ADLs w/ 
meals/cleaning provided by ALF (moved 10 months ago); it appears 
there has been no acute change. She was taking apixiban 2.5mg 
once daily (unclear why as this is a BID medication), and so her 
dose was increased to 2.5mg BID (she was not a candidate for 5mg 
BID due to her age and weight). She was started on atorvastatin 
for her hyperlipidemia (LDL 126). EP cardiology was consulted 
for frequent sinus pauses noted on telemetry that persisted 
despite holding home atenolol, recommending discontinuing home 
digoxin and close cardiology ___. Discharged to home w/ 
___ & ___ and close PCP ___.

#Transient slurred speech and instability, c/f TIA
- ___ consult - cleared for home with home services
- Started on atorvastatin for HLD and increased home apixaban to 
therapeutic level
- ___ with stroke neurology after discharge

Her stroke risk factors include the following:
1) DM: A1c 5.5%
2) Likely chronic segmental left vertebral artery occlusion and 
somewhat small caliber attenuated left M2 inferior branch
3) Hyperlipidemia: LDL 126
4) Obesity
5) No concern noted for sleep apnea - she does not carry the 
diagnosis
An echocardiogram did not show a PFO on bubble study.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed () No
2. DVT Prophylaxis administered? (X) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - () No
4. LDL documented? (X) Yes (LDL = 126) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (X) Yes - () No [if 
LDL if LDL >70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL]
6. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (X) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No
9. Discharged on statin therapy? (X) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (X) Yes [Type: () 
Antiplatelet - (X) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (X) Yes - () No - () N/A

#Cognitive complaints
- B12 249 - one time IM supplementation, then start oral B12 
supplementation
- Treponemal antibodies negative
- consider cognitive neurology referral as outpatient for memory 
difficulties not appreciated on our examination

#Afib
#frequent sinus pauses
- stopped digoxin, will ___ closely w/ otpt cardiologist 
(also PCP)
- increased to appropriate therapeutic dosing at Eliquis 2.5 mg 
BID (reduced dose given age and weight <60 kg)

#HLD
- started atorvastatin

#HTN
- continue home antihypertensives

#elevated troponin (RESOLVED)
- Troponin elevated at OSH, negative on admission

#elevated TSH
- should recheck as otpt w/ PCP ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Apixaban 2.5 mg PO DAILY 
3. Losartan Potassium 50 mg PO DAILY 
4. Digoxin 0.125 mg PO DAILY 
5. LevoFLOXacin 500 mg PO Q24H 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once daily at 
bedtime Disp #*30 Tablet Refills:*5 
2.  Cyanocobalamin 500 mcg PO DAILY 
RX *cyanocobalamin (vitamin B-12) 500 mcg 1 tablet(s) by mouth 
once daily Disp #*30 Tablet Refills:*5 
3.  Apixaban 2.5 mg PO BID  
4.  Atenolol 50 mg PO DAILY  
5.  LevoFLOXacin 500 mg PO Q24H  
6.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
transient dysarthria not secondary to TIA or stroke
Mild Vitamin B12 deficiency
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of slurred speech due to 
concern for an ACUTE ISCHEMIC STROKE, a condition where a blood 
vessel providing oxygen and nutrients to the brain is blocked by 
a clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms. However, the MRI of your brain did not show 
evidence of stroke or TIA. Your symptoms could have been related 
to blood pressure, dehydration, alcohol use, or a combination of 
these factors.

We are changing your medications as follows:
Increase apixaban to 2.5mg twice daily
Start Vitamin B12 daily supplement

Please take your other medications as prescribed.

Please follow up with your primary care physician as listed 
below. You should also follow up with your cardiologist as you 
were noted to have occasional pauses on cardiac monitoring.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, please pay attention to 
the sudden onset and persistence of these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___